US08304419B2
Step E: 3-Bromo-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-5-[(2-hydroxyethyl)oxy]-1H-indole-2-carboxamide
HATU (0.061 g, 0.161 mmol) was added to a DMF (2 mL) solution of 3-bromo-5-[(2-hydroxyethyl)oxy]-1H-indole-2-carboxylic acid (0.048 g, 0.161 mmol), 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.050 g, 0.161 mmol) and DIPEA (0.028 mL, 0.161 mmol). The solution was stirred overnight and partitioned between water and EtOAc. The organic was washed with a 15% aqueous solution of Na2CO3, dried over MgSO4 and filtered. Evaporation of the EtOAc and trituration in acetone afforded the title compound (0.049 g, 47%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.91 (s, 1H), 8.49 (t, 1H), 7.77-7.89 (m, 1H), 7.51-7.57 (m, 2H), 7.43-7.51 (m, 2H), 7.37 (d, 1H), 6.96 (ddd, 1H), 6.89 (s, 1H), 4.86 (t, 1H), 4.62 (d, 2H), 4.02 (t, 1H), 3.69-3.82 (m, 1H). LCMS: m/z=592.2 (M+1).

reactant | HATU | 0.161 mmol, 0.061 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-bromo-5-[(2-hydroxyethyl)oxy]-1H-indole-2-carboxylic acid | 0.161 mmol, 0.048 g | BrC1=C(NC2=CC=C(C=C12)OCCO)C(=O)O | C11H10BrNO4
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.161 mmol, 0.050 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | DIPEA | 0.161 mmol, 0.028 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-5-[(2-hydroxyethyl)oxy]-1H-indole-2-carboxamide | 0.049 g, 47% | BrC1=C(NC2=CC=C(C=C12)OCCO)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C25H17BrCl2FN3O4
